US05498630
2-(Trifluoromethyl)benzoyl chloride and ethyl amine were combined according to General Method E1 and recrystallized from cold hexanes to give 7.7 g N-ethyl-2-(trifluoromethyl)benzamide as a white solid, a 67% yield. m.p. 73°-76° C.

reactant | 2-(Trifluoromethyl)benzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | ethyl amine | C(C)N | C2H7N
product | N-ethyl-2-(trifluoromethyl)benzamide | 7.7 g, 67% yield | C(C)NC(C1=C(C=CC=C1)C(F)(F)F)=O | C10H10F3NO
